US07767675B2
Step 2. 6-{1-[6-(1-methyl-1H-pyrazol-4-yl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline
To a solution of 6-{1-[6-(1H-pyrazol-4-yl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline (6 mg, 0.017 mmol) in N,N-dimethylformamide (200 μL) was added potassium carbonate (4.0 mg, 0.029 mmol) and methyl iodide (3 μL, 0.048 mmol). After stirring at RT for 16 h, the reaction mixture was purified by RP-HPLC to afford the desired product. LCMS: (M+H)=367.0.

reactant | 6-{1-[6-(1H-pyrazol-4-yl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline | 0.017 mmol, 6 mg | N1N=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C21H16N6
reactant | potassium carbonate | 0.029 mmol, 4.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.048 mmol, 3 μL | CI | CH3I
solvent | N,N-dimethylformamide | 200 μL | CN(C=O)C | C3H7NO
product | 6-{1-[6-(1-methyl-1H-pyrazol-4-yl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline | CN1N=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C22H18N6
